US06863647B2
Preparation of a Compound of Formula (I): N-[3-(3-hydroxy-1-butynyl)phenyl]-N′-(5-isopropyl-1,3-thiazol-2-yl)urea
To a solution of 0.2 g (0.56 mmol) of N-(5-isopropyl-1,3-thiazol-2-yl)-N′-(3-iodophenyl)urea in 3 ml of anhydrous N,N-dimethylformamide 0.6 ml of tetramethylguanidine, 0.088 ml (1.126 mmol) of D,L-1-butyn-3-ol, 19 mg (0.027 mmol) of bis(triphenylphosphine)palladium(II)dihydrochloride and 5.8 mg (0.03 mmol) of rameous iodide under argon were added successively. After 5 hours water was added and the mixture extracted with ethylacetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated, giving 0.116 g of the title compound as a yellowish solid.

reactant | N-(5-isopropyl-1,3-thiazol-2-yl)-N′-(3-iodophenyl)urea | 0.56 mmol, 0.2 g | C(C)(C)C1=CN=C(S1)NC(=O)NC1=CC(=CC=C1)I | C13H14IN3OS
reactant | tetramethylguanidine | CN(C(N(C)C)=N)C | C5H13N3
reactant | iodide | 0.03 mmol, 5.8 mg | [I-]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-[3-(3-hydroxy-1-butynyl)phenyl]-N′-(5-isopropyl-1,3-thiazol-2-yl)urea | 0.116 g | OC(C#CC=1C=C(C=CC1)NC(=O)NC=1SC(=CN1)C(C)C)C | C17H19N3O2S
